US05424444
6a. N-Methyl-proline Methyl Ester
Methanol (2.2 L, 68.66 mol) was stirred under nitrogen and cooled to 0° C. Sulfuric acid (97%, 0.179 L, 3.26 mol) was added with vigorous stirring at a rate such that the internal temperature of the reactor did not rise above 10° C. L-Proline (0.5 kg, 4.34 mol) was added to the methanol, and the reaction was refluxed for 18 hr. The reaction mixture was cooled to 0° C., and with vigorous stirring a solution of K2CO3 (0.217 kg, 1.57 mol) in 0.363 L of water was slowly added to the mixture, until the pH was between pH 7 and 8. The neutralized solution was again cooled to 0° C., and aqueous formaldehyde solution (36%, 0.543 L) was added. After stirring for 15 min, 0.082 kg (2.17 mol) of powdered sodium borohydride was added in portions while maintaining the temperature between -5° and +5° C. The suspension was stirred for 3 hr, then filtered, and the filter cake was washed with toluene. The combined organic solvents were diluted 1:1 with water (2.6 L) and filtered. The organic phase was separated, and the aqueous layer was extracted at 0° C. with 5×0.5 L portions of toluene. The toluene extracts were combined, dried over sodium sulfate and filtered. The volume of the solution was reduced by half by distillation at 60° C. and 90 mbar pressure. The solution was taken to the next step without further purification.

reactant | Sulfuric acid | 3.26 mol, 0.179 L | S(O)(O)(=O)=O | H2O4S
reactant | L-Proline | 4.34 mol, 0.5 kg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | K2CO3 | 1.57 mol, 0.217 kg | C(=O)([O-])[O-].[K+].[K+]
reactant | formaldehyde | 0.543 L | C=O | CH2O
reactant | sodium borohydride | 2.17 mol, 0.082 kg | [BH4-].[Na+]
solvent | water | 0.363 L | O | H2O
solvent | methanol | CO | CH4O
solvent | Methanol | 68.66 mol, 2.2 L | CO | CH4O
product | N-Methyl-proline Methyl Ester | COC([C@H]1N(CCC1)C)=O | C7H13NO2
